US05089504
Diphenyl ether (500 ml) was heated to boiling, ethyl 2-butyryl-3-(2-(benzoyloxymethyl)phenylamino)acrylate (60.5 g, 0.15 mol) added, and heating continued at reflux for 25 minutes. Most of the diphenyl ether was removed by vacuum distillation. Chromatography (silica gel, 0%-3% methanol in dichloromethane) and recrystallization from methanol gave 3-butyryl-8-(benzoyloxymethyl)-4(1H)-quinolone (24.1 g, 45%), m.p. 115°-117°.

reactant | ethyl 2-butyryl-3-(2-(benzoyloxymethyl)phenylamino)acrylate | 0.15 mol, 60.5 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)COC(C1=CC=CC=C1)=O | C23H25NO5
solvent | Diphenyl ether | 500 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-butyryl-8-(benzoyloxymethyl)-4(1H)-quinolone | 24.1 g, 45% | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)COC(C1=CC=CC=C1)=O | C21H19NO4
